US08193199B2
3-((9H-Purin-6-yloxy)methyl)-2-(2-chlorophenyl)-8-methylquinoline
Prepared according to procedure L A mixture of 6-chloropurine (75 mg, 0.49 mmol) and 1,4-diazabicyclo[2.2.2]octane (109 mg, 0.97 mmol) in DMSO (0.5 mL) was stirred at rt for 5 h and was then added via cannula to a mixture of (2-(2-chlorophenyl)-8-methylquinolin-3-yl)-methanol (69 mg, 0.24 mmol) and sodium hydride, 60% dispersion in mineral oil (39 mg, 0.97 mmol) in DMSO (0.5 mL) that had been stirred at rt for 15 min prior to the addition. The mixture was stirred at rt for 3.5 h, cooled to 0° C., and H2O (5 mL) was added carefully. The mixture was extracted with EtOAc (3×10 mL), and the combined organic layers were dried (MgSO4) and concentrated under reduced pressure. The resulting yellow oil was dissolved in CH2Cl2, evaporated onto silica gel (deactivated with 2M NH3 in MeOH), and purified by flash chromatography (Biotage® Si 25+M) eluting with 2M NH3 in MeOH/CH2Cl2 (5%) to provide a white solid [PI3Kδ IC50=25 nM]. MS (ESI+) m/z=402.0 (M+1).

reactant | 6-chloropurine | 0.49 mmol, 75 mg | ClC1=C2NC=NC2=NC=N1 | C5H3ClN4
reactant | 1,4-diazabicyclo[2.2.2]octane | 0.97 mmol, 109 mg | N12CCN(CC1)CC2 | C6H12N2
reactant | (2-(2-chlorophenyl)-8-methylquinolin-3-yl)-methanol | 0.24 mmol, 69 mg | ClC1=C(C=CC=C1)C1=NC2=C(C=CC=C2C=C1CO)C | C17H14ClNO
reactant | sodium hydride | [H-].[Na+]
solvent | DMSO | 0.5 mL | CS(=O)C | C2H6OS
solvent | DMSO | 0.5 mL | CS(=O)C | C2H6OS
solvent | H2O | 5 mL | O | H2O
product | 3-((9H-Purin-6-yloxy)methyl)-2-(2-chlorophenyl)-8-methylquinoline | N1=CN=C2NC=NC2=C1OCC=1C(=NC2=C(C=CC=C2C1)C)C1=C(C=CC=C1)Cl | C22H16ClN5O
